US09085576B2
A sealable vial was charged with a solution of tert-butyl 4-bromo-1H-pyrazole-1-carboxylate (1 g, 4.05 mmol) and triethylamine (2.81 mL, 20.24 mmol) in DMF (6.75 mL). The solution was purged with nitrogen for 10 minutes. Copper (I) iodide (0.077 g, 0.405 mmol) and tetrakis(triphenylphosphine)palladium (0.234 g, 0.202 mmol) were added and 1-propyne was bubbled through the solution for 2 min. The reaction mixture was heated at 70° C. overnight. The reaction was poured into a 9:1 mixture of aqueous saturated ammonium chloride/ammonium hydroxide and the mixture was extracted with EtOAc. The combined organic extracts were washed with a 9:1 mixture of aqueous saturated ammonium chloride/ammonium hydroxide, aqueous lithium bromide solution, brine, and dried over sodium sulfate. The filtrate was concentrated in vacuo and the residue was purified by silica gel chromatography, eluting with 1:9 EtOAc in heptane, to provide tert-butyl 4-(prop-1-yn-1-yl)-1H-pyrazole-1-carboxylate, which was taken up in MeOH and treated with excess solid K2CO3 for 15 minutes. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure The crude material was partitioned between DCM and water. The layers were separated and the aqueous layer was extracted with DCM. The combined organic extracts were washed with brine and dried over sodium sulfate. The filtrate was concentrated in vacuo to afford 4-(prop-1-yn-1-yl)-1H-pyrazole. LC/MS (ESI−) m/z=107.0 (M+H).

reactant | tert-butyl 4-bromo-1H-pyrazole-1-carboxylate | 4.05 mmol, 1 g | BrC=1C=NN(C1)C(=O)OC(C)(C)C | C8H11BrN2O2
reactant | triethylamine | 20.24 mmol, 2.81 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 6.75 mL | CN(C)C=O | C3H7NO
catalyst | Copper (I) iodide | 0.405 mmol, 0.077 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium | 0.202 mmol, 0.234 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(prop-1-yn-1-yl)-1H-pyrazole-1-carboxylate | C(#CC)C=1C=NN(C1)C(=O)OC(C)(C)C | C11H14N2O2
